US07482462B2
0.42 g of 4-chlorophenylsulfonamide, 60 mg of DMAP and 0.42 g of EDC are added to a solution of 0.5 g of 4-pentyl-bicyclo[2.2.2]octane-1-carboxylic acid in 8 ml of DMF, the mixture obtained is stirred for ca. 16 h at RT and solvent from the mixture obtained is evaporated. The evaporation residue obtained is dissolved in EtAc and washed with 1 N HCl, saturated NaHCO3 solution and brine and the organic phase obtained is dried. Solvent of the organic phase obtained is evaporated and the evaporation residue obtained is subjected to chromatography. 4-Chloro-N-(4-pentyl- bicyclo[2.2.2]octane-1-carbonyl)-benzenesulfonamide is obtained in the form of a white powder;

reactant | 4-chlorophenylsulfonamide | 0.42 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | EDC | 0.42 g
reactant | 4-pentyl-bicyclo[2.2.2]octane-1-carboxylic acid | 0.5 g | C(CCCC)C12CCC(CC1)(CC2)C(=O)O | C14H24O2
catalyst | DMAP | 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-N-(4-pentyl- bicyclo[2.2.2]octane-1-carbonyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)C12CCC(CC1)(CC2)CCCCC | C20H28ClNO3S
